US08530133B2
4,4′-(bicyclo[2.2.1]heptane-2,5-diyl)bis(2-methylphenol) (PP308)
4-Bromo-2-methylphenol (2.03 grams, 10.8 mmol), (tris-o-tolylphosphine)2PdCl2 (0.0422 gram, 0.0537 mmol), and norbornadiene (0.257 gram, 2.79 mmol) were charged to an appropriately sized and equipped reaction vessel under nitrogen. DMF (36 mL), triethylamine and formic acid were added to what was observed to be a yellow suspension. The mixture was then heated to 75° C. in an oil bath. Upon such heating, the reaction mixture became a yellow solution, black particles appeared and a very slow evolution of gas was observed. The reaction mixture was stirred overnight at this temperature. After cooling, the reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was separated and dried over anhydrous MgSO4. PP308-2, 5, (4,4′-(Bicyclo[2.2.1]heptane-2,5-diyl)bis(2-methylphenol)) was confirmed by GC-MS of the crude product (43% yield).

reactant | 4-Bromo-2-methylphenol | 10.8 mmol, 2.03 grams | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | norbornadiene | 2.79 mmol, 0.257 gram | C12=CC=C(CC1)C2 | C7H8
reactant | DMF | 36 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | formic acid | C(=O)O | CH2O2
product | 4,4′-(bicyclo[2.2.1]heptane-2,5-diyl)bis(2-methylphenol) | 43% yield | C12C(CC(C(C1)C1=CC(=C(C=C1)O)C)C2)C2=CC(=C(C=C2)O)C | C21H24O2
